US04206225
dl-7,8,9,10-Tetrahydro-2-hydroxy-3-(1-methyl-4-phenylbutyl)-6-oxo-6H-dibenzo[b,d]pyran
A mixture of 5.0 g. (19.5 mmoles) of 2-(2',5'-dihydroxyphenyl)-5-phenylpentane, 3.4 g. (21.7 mmoles) 2-carboethoxycyclohexanone and 1.78 ml. (19.5 mmoles) of phosphorus oxychloride was stirred for five days under a nitrogen atmosphere. The solidified reaction mixture was dissolved in 175 ml. of chloroform, washed with 3×50 ml. of water and 50 ml. of saturated sodium bicarbonate solution, dried (MgSO4) and evaporated to dryness at reduced pressure to obtain 13.8 g. of a partially crystalline solid. Trituration with hexane and evaporation of the filtrate gave 6.0 g. of crude product, M.P. 184°-193° C. Recrystallization from chloroform-hexane provided 2.66 g. of the title compound as tan crystals; M.P. 201°-203° C. A second crop, 1.7 g. was obtained from the mother liquor. 1H-NMR(CDCl3)ppm, (δ): 7.4-7.1 (m,5,phenyl), 7.1 and 7.05 (s,1,aromatic), 3.6-3.0 (m,1,CH), 2.9-2.3 (m,6,benzylic and allylic CH2), 1.9-1.4 (m,8,CH2), 1.2 (d,3,J=7), α-CH3); IR(KBr) 6.0μ; Mass spectrum (m/e): 362(M+).

reactant | 2-(2',5'-dihydroxyphenyl)-5-phenylpentane | 19.5 mmoles | OC1=C(C=C(C=C1)O)C(C)CCCC1=CC=CC=C1 | C17H20O2
reactant | 2-carboethoxycyclohexanone | 21.7 mmoles | C(=O)(OCC)C1C(CCCC1)=O | C9H14O3
reactant | phosphorus oxychloride | 19.5 mmoles | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7,8,9,10-Tetrahydro-2-hydroxy-3-(1-methyl-4-phenylbutyl)-6-oxo-6H-dibenzo[b,d]pyran | OC1=CC2=C(OC(C3=C2CCCC3)=O)C=C1C(CCCC1=CC=CC=C1)C | C24H26O3
